US06855710B2
a) 4-(pyrimidin-2-ylaminomethyl)-nitrobenzene
9.4 g (50 mmol) of 4-nitrobenzylamine-hydrochloride, 11.7 g (110 mmol) of sodium carbonate and 7.5 g (50 mmol) of sodium iodide are added to a solution of 5.7 g (50 mmol) of 2-chloropyrimidine in 250 ml of ethanol. The mixture is refluxed for 20 hours. Then the salts are removed by suction filtering, the filtrate is evaporated down and taken up in 300 ml of ethyl acetate. It is washed with water, the solvent is eliminated in vacuo and the residue is chromatographed on silica gel (dichloromethane/methanol=97:3).

reactant | 4-nitrobenzylamine-hydrochloride | 50 mmol, 9.4 g | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
reactant | sodium carbonate | 110 mmol, 11.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 50 mmol, 7.5 g | [I-].[Na+]
reactant | 2-chloropyrimidine | 50 mmol, 5.7 g | ClC1=NC=CC=N1 | C4H3ClN2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-(pyrimidin-2-ylaminomethyl)-nitrobenzene | N1=C(N=CC=C1)NCC1=CC=C(C=C1)[N+](=O)[O-] | C11H10N4O2
